### PR TITLE
Insert-model

### PR DESCRIPTION
**Pull request by Lingyin00**
The whole proof of insert-model. 
Induction version of sortedInsert_left still incomplete.

### CODE REVIEW

**Review by hargoniX — CHANGES_REQUESTED** [review]
I fixed the last proof for you though rather dirtily, in general please make sure the following applies to your branch:
1. It should be rebased on top of the current `main` such that it is mergable in the first place, this includes correctly integrating yourself with the changes made on main of course.
2. There should not be a `simp` or `aesop` anywhere unless it closes a goal. This is because `simp` and `aesop` are powerful proof machinery so having them in the middle of a proof can make your proof unstable under refactorings. You should use `simp?` to turn your simps into `simp only`. You can use `aesop?` to do the same with `aesop` though usually there is a way to rephrase your proof such that this isn't necessary.
3. There should be no warnings about unused hypotheses
4. Try to make the code a little less repetetive, for example `inorder_ins` repeatedly shows `have := bst_iff_sorted_inorder.mpr h`, you could pull that out to the "mother goal" and not have to restate the fact every single time.
5. Make sure your branch does not yet contain unfinished work about ChildInv.

**Comment by Lingyin-Luo** [comment]
`have := bst_iff_sorted_inorder.mpr h` will surprisingly have a type mismatch if I pull it to one level goal higher.

**Comment by Lingyin00** [comment]
> I fixed the last proof for you though rather dirtily, in general please make sure the following applies to your branch:
> 
> 1. It should be rebased on top of the current `main` such that it is mergable in the first place, this includes correctly integrating yourself with the changes made on main of course.
> 2. There should not be a `simp` or `aesop` anywhere unless it closes a goal. This is because `simp` and `aesop` are powerful proof machinery so having them in the middle of a proof can make your proof unstable under refactorings. You should use `simp?` to turn your simps into `simp only`. You can use `aesop?` to do the same with `aesop` though usually there is a way to rephrase your proof such that this isn't necessary.
> 3. There should be no warnings about unused hypotheses
> 4. Try to make the code a little less repetetive, for example `inorder_ins` repeatedly shows `have := bst_iff_sorted_inorder.mpr h`, you could pull that out to the "mother goal" and not have to restate the fact every single time.
> 5. Make sure your branch does not yet contain unfinished work about ChildInv.

`have := bst_iff_sorted_inorder.mpr h` will surprisingly have a type mismatch if I pull it to one level goal higher.
And `have := Sorted_append_cons_iff.mp h` would work only two-level higher in the "mother goal", it seems like `Aesop`will clean some known context after use.
It might because Lean doesn't know how to concretise the meta variables? I have omitted lots of contents which won't affect the automation of `Aesop`after completing that proof.

**Comment by Lingyin-Luo** [comment]
And `have := Sorted_append_cons_iff.mp h` would works only two-level higher in the "mother goal", it seems like `Aesop`will clean some known context after use.

File: Filrb/Internal/Model.lean [hunk 1]
```diff
@@ -56,6 +57,33 @@ theorem sortedInsert_cons_gt {x a : α} {xs : List α} (h : x < a) :
...
+  | cons x xs =>
+    specialize h1 x (by simp)
+    rw [← LawfulOrd.compare_eq_lt] at h1
+    simp [sortedInsert, h1]
+
+theorem sortedInsert_append_left {x : α} {xs ys : List α} (h1 : ∀ a ∈ ys, x < a) :
+    sortedInsert (xs ++ ys) x = sortedInsert xs x ++ ys := by
+  induction xs with
+  | nil =>
+    simp
```
Comment (hargoniX) [inline Filrb/Internal/Model.lean]: Non terminal simp

File: Filrb/Internal/Model.lean [hunk 2]
```diff
@@ -56,6 +57,33 @@ theorem sortedInsert_cons_gt {x a : α} {xs : List α} (h : x < a) :
...
+    rw [sortedInsert_lt]
+    assumption
+  | cons x xs ih =>
+    simp
```
Comment (hargoniX) [inline Filrb/Internal/Model.lean]: Non terminal simp

File: Filrb/Internal/Model.lean [hunk 3]
```diff
@@ -56,6 +57,33 @@ theorem sortedInsert_cons_gt {x a : α} {xs : List α} (h : x < a) :
...
+    rw [sortedInsert]
+    split
+    · aesop
+    · aesop
+    · next heq =>
+      rw [sortedInsert]
+      simp [heq]
```
Comment (hargoniX) [inline Filrb/Internal/Model.lean]: Non terminal simp

File: Filrb/Internal/Model.lean [hunk 4]
```diff
@@ -169,27 +197,181 @@ theorem bst_iff_sorted_inorder {t : Raw α} : t.BST ↔ Sorted t.inorder := by
...
 
-theorem baliL_inorder_independent {l r : Raw α}
-    (hl1 : ∀ y ∈ l, y < x) (hl2 : BST l)
-    (hr1 : ∀ y ∈ r, x < y) (hr2 : BST r) :
-    (baliL x l r).inorder = l.inorder ++ x :: r.inorder := by
-  sorry
+omit [Ord α] [LawfulOrd α] in
+lemma baliL_inorder_independent{l r : Raw α} (hl1 : ∀ y ∈ l, y < x) (hl2 : BST l) (hr1 : ∀ y ∈ r, x < y) (hr2 : BST r)
+    : (baliL x l r).inorder = l.inorder ++ x :: r.inorder := by
+    simp[baliL]
```
Comment (hargoniX) [inline Filrb/Internal/Model.lean]: non terminal simp

File: Filrb/Internal/Model.lean [hunk 5]
```diff
@@ -169,27 +197,181 @@ theorem bst_iff_sorted_inorder {t : Raw α} : t.BST ↔ Sorted t.inorder := by
...
 
-theorem baliR_inorder_independent {l r : Raw α}
-    (hl1 : ∀ y ∈ l, y < x) (hl2 : BST l)
-    (hr1 : ∀ y ∈ r, x < y) (hr2 : BST r) :
-    (baliR x l r).inorder = l.inorder ++ x :: r.inorder := by
-  sorry
+omit [Ord α] [LawfulOrd α] in
+lemma baliR_inorder_independent {l r : Raw α} (hl1 : ∀ y ∈ l, y < x) (hl2 : BST l) (hr1 : ∀ y ∈ r, x < y) (hr2 : BST r)
+    : (baliR x l r).inorder = l.inorder ++ x :: r.inorder := by
+    simp[baliR]
```
Comment (hargoniX) [inline Filrb/Internal/Model.lean]: non terminal simp

File: Filrb/Internal/Model.lean [hunk 6]
```diff
@@ -169,27 +197,181 @@ theorem bst_iff_sorted_inorder {t : Raw α} : t.BST ↔ Sorted t.inorder := by
...
+    split <;> aesop
+
+lemma sortedInsert_left (x data : α) (xs ys : List α) (hl1 : ∀ a ∈ xs, a < data ) (hr1 : ∀ b ∈ ys, data < b) (h : x < data) :
+  sortedInsert xs x ++ data :: ys = sortedInsert (xs ++ data :: ys) x := by
+  rw [sortedInsert_append_left]
+  simp
```
Comment (hargoniX) [inline Filrb/Internal/Model.lean]: non terminal simp

File: Filrb/Internal/Model.lean [hunk 7]
```diff
@@ -169,27 +197,181 @@ theorem bst_iff_sorted_inorder {t : Raw α} : t.BST ↔ Sorted t.inorder := by
...
+  · intro a ha
+    exact lt_trans h (hr1 a ha)
+
+lemma sortedInsert_middle (x data : α)(xs ys : List α)(hl1 : ∀ a ∈ xs, a < data ) (hr1 : ∀ b ∈ ys, data < b)(h : x = data) :
+  xs ++ data :: ys = sortedInsert (xs ++ data :: ys) x := by
+  induction xs with
+  | nil => simp[sortedInsert_cons_self, h]
+  | cons x xs ih  =>
+    next e =>
+    simp
```
Comment (hargoniX) [inline Filrb/Internal/Model.lean]: non terminal simp

File: Filrb/Internal/Model.lean [hunk 8]
```diff
@@ -169,27 +197,181 @@ theorem bst_iff_sorted_inorder {t : Raw α} : t.BST ↔ Sorted t.inorder := by
...
+    · have hx : x ∈ x :: xs := by simp
+      have := hl1 x hx
+      assumption
+
+lemma sortedInsert_right (x data : α) (xs ys : List α) (hl1 : ∀ a ∈ xs, a < data ) (hr1 : ∀ b ∈ ys, data < b) (h : data < x) :
+  xs ++ data :: sortedInsert ys x = sortedInsert (xs ++ data :: ys) x := by
+  induction xs with
+  | nil => simp[sortedInsert_cons_gt, h]
+  | cons x xs ih =>
+    simp
```
Comment (hargoniX) [inline Filrb/Internal/Model.lean]: non terminal simp

File: Filrb/Internal/Model.lean [hunk 9]
```diff
@@ -169,27 +197,181 @@ theorem bst_iff_sorted_inorder {t : Raw α} : t.BST ↔ Sorted t.inorder := by
...
+      simp
+    exact lt_trans this h
+
+lemma inorder_ins (x : α) (t : Raw α) (h : Sorted t.inorder): (ins x t).inorder = sortedInsert t.inorder x := by
+  unfold ins
+  split
+  · simp
+  · split
+    · rw[baliL_inorder_independent]
+      simp[inorder_node]
```
Comment (hargoniX) [inline Filrb/Internal/Model.lean:269]: non terminal simp

File: Filrb/Internal/Model.lean [hunk 10]
```diff
@@ -169,27 +197,181 @@ theorem bst_iff_sorted_inorder {t : Raw α} : t.BST ↔ Sorted t.inorder := by
...
   split <;> simp
 
-theorem baliL_inorder_independent {l r : Raw α}
-    (hl1 : ∀ y ∈ l, y < x) (hl2 : BST l)
-    (hr1 : ∀ y ∈ r, x < y) (hr2 : BST r) :
-    (baliL x l r).inorder = l.inorder ++ x :: r.inorder := by
-  sorry
+omit [Ord α] [LawfulOrd α] in
+lemma baliL_inorder_independent{l r : Raw α} (hl1 : ∀ y ∈ l, y < x) (hl2 : BST l) (hr1 : ∀ y ∈ r, x < y) (hr2 : BST r)
+    : (baliL x l r).inorder = l.inorder ++ x :: r.inorder := by
```
Comment (hargoniX) [inline Filrb/Internal/Model.lean]: The mathlib style would want this theorem to be written like so:
```lean
lemma baliL_inorder_independent{l r : Raw α} (hl1 : ∀ y ∈ l, y < x) (hl2 : BST l)
    (hr1 : ∀ y ∈ r, x < y) (hr2 : BST r) :
    (baliL x l r).inorder = l.inorder ++ x :: r.inorder := by
```
note the two major differences here:
1. No leading `:` in the last line
2. Line length limit of 120 characters

Please make sure your theorems generally stick to this style when they become multi line due to the line limit, if they fit within 120 characters you can just leave them

File: Filrb/Internal/Model.lean [hunk 11]
```diff
@@ -169,27 +197,181 @@ theorem bst_iff_sorted_inorder {t : Raw α} : t.BST ↔ Sorted t.inorder := by
...
-    (baliR x l r).inorder = l.inorder ++ x :: r.inorder := by
-  sorry
+omit [Ord α] [LawfulOrd α] in
+lemma baliR_inorder_independent {l r : Raw α} (hl1 : ∀ y ∈ l, y < x) (hl2 : BST l) (hr1 : ∀ y ∈ r, x < y) (hr2 : BST r)
+    : (baliR x l r).inorder = l.inorder ++ x :: r.inorder := by
+    simp[baliR]
+    split <;> aesop
+
+lemma sortedInsert_left (x data : α) (xs ys : List α) (hl1 : ∀ a ∈ xs, a < data ) (hr1 : ∀ b ∈ ys, data < b) (h : x < data) :
+  sortedInsert xs x ++ data :: ys = sortedInsert (xs ++ data :: ys) x := by
```
Comment (hargoniX) [inline Filrb/Internal/Model.lean]: The theorem statement on the separate line should be indented by 4 not 2 spaces, additionally the first line is also longer than 120 characters.

File: Filrb/Internal/Model.lean [hunk 12]
```diff
@@ -169,27 +197,181 @@ theorem bst_iff_sorted_inorder {t : Raw α} : t.BST ↔ Sorted t.inorder := by
...
+  rw [sortedInsert_append_left]
+  simp
+  constructor
+  · assumption
+  · intro a ha
+    exact lt_trans h (hr1 a ha)
+
+lemma sortedInsert_middle (x data : α)(xs ys : List α)(hl1 : ∀ a ∈ xs, a < data ) (hr1 : ∀ b ∈ ys, data < b)(h : x = data) :
+  xs ++ data :: ys = sortedInsert (xs ++ data :: ys) x := by
```
Comment (hargoniX) [inline Filrb/Internal/Model.lean]: Similar indentation / length issue here

File: Filrb/Internal/Model.lean [hunk 13]
```diff
@@ -169,27 +197,181 @@ theorem bst_iff_sorted_inorder {t : Raw α} : t.BST ↔ Sorted t.inorder := by
...
   unfold paintColor
   split <;> simp
 
-theorem baliL_inorder_independent {l r : Raw α}
-    (hl1 : ∀ y ∈ l, y < x) (hl2 : BST l)
-    (hr1 : ∀ y ∈ r, x < y) (hr2 : BST r) :
-    (baliL x l r).inorder = l.inorder ++ x :: r.inorder := by
-  sorry
+omit [Ord α] [LawfulOrd α] in
+lemma baliL_inorder_independent{l r : Raw α} (hl1 : ∀ y ∈ l, y < x) (hl2 : BST l) (hr1 : ∀ y ∈ r, x < y) (hr2 : BST r)
```
Comment (hargoniX) [inline Filrb/Internal/Model.lean]: This theorem has unused hypotheses.

File: Filrb/Internal/Model.lean [hunk 14]
```diff
@@ -169,27 +197,181 @@ theorem bst_iff_sorted_inorder {t : Raw α} : t.BST ↔ Sorted t.inorder := by
...
+    simp[baliL]
+    split <;> aesop
 
-theorem baliR_inorder_independent {l r : Raw α}
-    (hl1 : ∀ y ∈ l, y < x) (hl2 : BST l)
-    (hr1 : ∀ y ∈ r, x < y) (hr2 : BST r) :
-    (baliR x l r).inorder = l.inorder ++ x :: r.inorder := by
-  sorry
+omit [Ord α] [LawfulOrd α] in
+lemma baliR_inorder_independent {l r : Raw α} (hl1 : ∀ y ∈ l, y < x) (hl2 : BST l) (hr1 : ∀ y ∈ r, x < y) (hr2 : BST r)
```
Comment (hargoniX) [inline Filrb/Internal/Model.lean]: This theorem has unused hypotheses.

File: Filrb/Internal/Model.lean [hunk 15]
```diff
@@ -169,27 +197,181 @@ theorem bst_iff_sorted_inorder {t : Raw α} : t.BST ↔ Sorted t.inorder := by
...
+    : (baliR x l r).inorder = l.inorder ++ x :: r.inorder := by
+    simp[baliR]
+    split <;> aesop
+
+lemma sortedInsert_left (x data : α) (xs ys : List α) (hl1 : ∀ a ∈ xs, a < data ) (hr1 : ∀ b ∈ ys, data < b) (h : x < data) :
```
Comment (hargoniX) [inline Filrb/Internal/Model.lean]: This theorem has unused hypotheses.

**Review by hargoniX — CHANGES_REQUESTED** [review]
Pointed out a couple of stylistic issues and unused hypotheses that you missed.
